US07205302B2
2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butylthio}acetic acid methyl ester
1.17 g of 1-bromo-4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butane, 0.29 g of methyl thioglycolate, 0.46 g of potassium carbonate, a catalytic amount of potassium iodide and 27 ml of acetonitrile were mixed and the mixture was refluxed for 4 hours. The insoluble matter was removed by filtration and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.19 g of the desired compound as a pale yellow crystal having a melting point of 64 to 67° C.

reactant | 1-bromo-4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butane | 1.17 g | BrCCCCN(C(C)C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26BrN3
reactant | methyl thioglycolate | 0.29 g | C(CS)(=O)OC | C3H6O2S
reactant | potassium carbonate | 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | 27 ml | C(C)#N | C2H3N
product | 2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butylthio}acetic acid methyl ester | 1.19 g | COC(CSCCCCN(C(C)C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H31N3O2S
